US05068325
4q) 2-Amino-6-(3-(3,4-dimethoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 3,4-dimethoxy-cinnamyl chloride (prepared at -5° C. for 10 minutes) and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform. Yield: 7.7% of theory, Melting point: 122°-126° C. (ether).

reactant | 3,4-dimethoxy-cinnamyl chloride | COC=1C=C(C=CCCl)C=CC1OC | C11H13ClO2
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | ether | CCOCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(3,4-dimethoxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 7.7% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC(=C(C=C1)OC)OC | C18H23N3O2S
